US07081454B2
6-Bromo-2-(4-iodo-2-methoxy-pyridin-3-yl)-4-methyl-1H-benzimidazole:
To a solution of 5-bromo-3-methyl-1,2-phenylenediamine (4 g, 19.9 mmol) in methanol (80 mL) was added 4-iodo-2-methoxy-pyridine-3-carbaldehyde (5.23 g, 19.9 mmol) in methanol (20 mL) dropwise at 0° C. The resulting slurry was stirred for 30 min at room temperature. Then iodine (2.53 g, 9.95 mmol) in methanol (20 mL) was added via a dropping funnel. After 14 h, the reaction mixture was concentrated in vacuo, diluted with 5% Na2S2O3, and extracted with ethyl acetate. The combined organic layers were washed with water, brine, and dried over Na2SO4. After removal of solvent, the residue was purified by careful flash chromatography (20% EtOAc/hexane) to yield the title compound (4.05 g, 46%) as a yellow foam. 1H NMR (300 MHz, CDCl3) δ 7.86 (1H, d, J=5.31 Hz), 7.53 (1H, d, J=5.3 Hz), 7.26 (2H, broad s), 3.91 (3H, s), 2.63 (3H, s). LCMS (M+H)+ m/z 444 (t=1.39 min.).

reactant | 5-bromo-3-methyl-1,2-phenylenediamine | 19.9 mmol, 4 g | BrC=1C=C(C(=C(C1)N)N)C | C7H9BrN2
reactant | 4-iodo-2-methoxy-pyridine-3-carbaldehyde | 19.9 mmol, 5.23 g | IC1=C(C(=NC=C1)OC)C=O | C7H6INO2
reactant | iodine | 9.95 mmol, 2.53 g | II | I2
solvent | methanol | 80 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 6-Bromo-2-(4-iodo-2-methoxy-pyridin-3-yl)-4-methyl-1H-benzimidazole | 4.05 g, 46% | BrC=1C=C(C2=C(NC(=N2)C=2C(=NC=CC2I)OC)C1)C | C14H11BrIN3O
